Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
___ female with PMHx small vessel CAD, COPD not on meds, 
former smoker, who presents as transfer from ___ for chest 
pressure. 

Patient with previous history of small vessel CAD seen on 
cardiac cath in ___. Had previously had intermittent substernal 
chest pain, but within the past year they have been increasing 
in severity. States that she saw her cardiologist again and had 
another stress test which was normal. She was started on 
metoprolol, which she state she has not tolerated well secondary 
to weight gain, hair loss. 

She states that 2 days ago, while sitting at her desk she 
developed substernal ___ chest pain that radiated to back, 
described as tightness that was associated with nausea and 
diaphoresis. No association with exertion or shortness of 
breath. She went to ___ where she was given SL nitro & full 
dose ASA which helped relieved the pain to ___. Trop negative, 
EKG at baseline at OSH. 

Of note, patient is followed by Dr ___. Attending physician at 
___ spoke w/ cards covering for Dr ___ rec'd transfer for 
admission + possible cath. 
 
In the ___, initial VS were:  97.5 56 136/84 18 96% RA

Exam was unremarkable
 
Labs showed: 
Trop neg
BMP wnl
11.6>13.6/40.5<258

Imaging showed:
COPD without superimposed pneumonia or edema. 
 
Patient received: atorvastatin 80mg, SL nitro x1. ASA 325mg at 
___
 
Cardiology consulted:
"Patient presents with unstable angina. Should be admitted for 
further ischemic evaluation, likely with cor angio. Currently 
with very mild chest pain, recommend redosing SL nitro. 
-Admit to ___
-Trend troponin, CK-MB, ECG Q8hr
-Please give SL nitro; if patient still has chest pain 
afterward, please call cardiology fellow and start nitro gtt
-Keep NPO at midnight for possible cath tomorrow
-Give atorvastatin 80mg this evening
-Please call cardiology fellow for any hemodynamic instability 
or new symptoms"

Transfer VS were: 98.5 56 127/58 15 94% RA  

On arrival to the floor, patient reports after receiving 
additional SL nitro, she is now chest pain free. She relates to 
the history above. She does note that she recently had 
bronchitis that was treated with prednisone and azithromycin, in 
which she just finished her course of prednisone a few days ago. 
She states she does not take any medications for COPD, although 
gets rather sick when she develops a viral illness. She 
currently denies any fevers, chills, N/V, SOB, chest pain, 
abdominal pain, dysuria, constipation, diarrhea, ___ 
weakness/tingling, swelling. 

 
Past Medical History:
COPD - former smoker 60 pack years. Quit ___ years ago. Not on 
any controller medications
Small Vessel CAD
HLD
Uterine Prolapse s/p suspension
Diverticulosis s/p polypectomy  
 
Social History:
___
Family History:
Father died of lung CA at age ___. Mother died of CVA at age
___. Mother had valve replacement in her ___.  She has three
siblings who are all healthy without any known heart disease,
arrhythmias, or sudden cardiac death.  
 
Physical Exam:
ADMISSION Physical:
===================
VITALS: 97.9 131/75 90 18 98% RA  
GENERAL: pleasant, well appearing in no acute distress
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: No elevated JVP  
CARDIAC: RRR. S1, S2. No mrg. No tenderness to palpation
LUNGS: CTA B/l
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, well perfused. No ___ edema 
NEURO: AOx3. CN II-XII grossly intact. Moving all 4 extremities 
spontaneously

DISCHARGE Physical:
==================
VITALS: 97.9 131/75 90 18 98% RA  
GENERAL: pleasant, well appearing in no acute distress
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. 
NECK: No elevated JVP  
CARDIAC: RRR. S1, S2. No mrg. No tenderness to palpation
LUNGS: CTA B/l, noisy upper airway sounds.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, well perfused. No ___ edema 
NEURO: AOx3. CN II-XII grossly intact. Moving all 4 extremities
spontaneously
 
Pertinent Results:
ADMISSION Labs:
===============
___ 08:47PM BLOOD WBC-11.6* RBC-4.36 Hgb-13.6 Hct-40.5 
MCV-93 MCH-31.2 MCHC-33.6 RDW-12.9 RDWSD-43.9 Plt ___
___ 08:47PM BLOOD ___ PTT-28.3 ___
___ 08:47PM BLOOD Glucose-90 UreaN-10 Creat-0.6 Na-142 
K-4.3 Cl-102 HCO3-26 AnGap-14
___ 08:47PM BLOOD cTropnT-<0.01
___ 07:35AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:47PM BLOOD Albumin-4.0 Calcium-9.1 Phos-3.3 Mg-2.1

MICRO:
========
None to report

IMAGING/Procedures:
===================
CXR ___: COPD without superimposed pneumonia or edema.

Cardiac Catheterization ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD is normal. On initial injection there was slow flow 
which normalized with further injections
* Circumflex
The Circumflex is normal
* Ramus
The Ramus is normal.
* Right Coronary Artery
The RCA is normal.

DISCHARGE Labs:
================
___ 07:35AM BLOOD WBC-10.5* RBC-4.50 Hgb-13.7 Hct-41.7 
MCV-93 MCH-30.4 MCHC-32.9 RDW-12.7 RDWSD-43.2 Plt ___
___ 07:35AM BLOOD ___ PTT-28.0 ___
___ 07:35AM BLOOD Glucose-88 UreaN-10 Creat-0.6 Na-143 
K-4.4 Cl-100 HCO3-26 AnGap-17
___ 07:35AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
 
Brief Hospital Course:
Patient Summary for Admission:
===============================
Ms. ___ is a ___ female with PMHx small vessel 
CAD diagnosed in ___, COPD, former smoker, who presented as 
transfer from ___ for chest pressure and further 
evaluation of unstable angina. Patient's EKG and troponins were 
negative for ischemia while at ___. Upon transferring 
patient had ongoing chest pain which was alleviated by 
nitroglycerin. EKG on admission was negative for ischemic 
changes and troponins were negative. However, patient has 
significant risk factors for CAD and a stress test completed by 
her outpatient cardiologist was notable for a reversible defect 
possibly suggestive of LAD ischemia. As a result patient 
underwent cardiac catheterization which did not show evidence of 
coronary artery disease. As a result patient's Metoprolol was 
discontinued and as patient was chest pain free. She was felt 
safe to discharge home.

ACUTE Issues Addressed:
========================
#Unstable Angina:
#Chest Pain:
Patient presented to ___ with a one week history of 
worsening substernal chest pain and subsequently transferred to 
___ for further evaluation. EKG on admission was negative for 
ischemic changes and troponins were negative. Ms. ___ 
experienced ongoing chest pain following admission that resolved 
with nitroglycerin. Per report, patient underwent stress testing 
with imaging in ___ that was concerning for possible LAD 
ischemia. Giver her history of small caliber vessels with 
luminal irregularites in ___ and her significant CAD risk 
factors, catheterization was pursued ___ which did not 
demonstrate coronary artery disease (LMCA, LAD, RCA, Ramus and 
Circ were normal). Chest pain could have been in the setting of 
possible coronary vasospasm. She continued her home Imdur 60mg 
daily while inpatient, and Simvastatin. Patient's Metoprolol 
Succinate 25mg ER was discontinued inpatient as patient is 
without coronary artery disease.

#COPD: On admission, patient's CXR notable for hyperinflation, 
consistent with COPD. Patient not currently on any controller 
medications. Patient should be evaluated by PCP for further 
medical management as appropriate.

CHRONIC Issues Addressed:
=========================
#Smoking Cessation: Patient continued home Buproprion.

TRANSITIONAL Issues:
=====================
[]PCP ___ should be scheduled by patient. Patient to call 
___ within one week of discharge.
[]Cardiology ___ with Dr. ___ be arranged as 
needed by PCP.
[]Outpatient cardiologist could consider Diltiazem initiation as 
appropriate for further management of potential coronary 
vasospasm.
[]Metoprolol Succinate 25mg ER discontinued while inpatient as 
patient without significant coronary artery disease.
[]Patient not currently on any controller medications for COPD. 
Patient should be evaluated by PCP for need for repeat PFTs and 
further medical management as appropriate.
[]Ongoing work up regarding patient's known colonic polyps, 
patient to follow up with GI ___ at 12:30 ___

Medication Changes:
-Started: None
-Stopped: Metoprolol Succinate ER 25mg daily
-Changed: None

Code Status: Full Code
HCP: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
2. Oxybutynin 5 mg PO QHS 
3. Simvastatin 40 mg PO QPM 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  BuPROPion (Sustained Release) 150 mg PO BID  
3.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
4.  Oxybutynin 5 mg PO QHS  
5.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
===================
Unstable Angina
Chest pain

Secondary Diagnosis:
====================
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing ___ as 
your site of care!

Why was I admitted to the hospital?
-You were admitted to the hospital because you were having chest 
pain at home.

What was done for me while I was in the hospital?
-A tracing of your heart called an EKG did not show obvious 
changes.
-Your heart markers (troponins) were negative.
-However, because of your history and concerning chest pain you 
had a procedure completed called a cardiac catheterization.
-This procedure showed you do no have disease in your heart 
vessels.
-You were continued on your home medications while inpatient and 
your metoprolol was discontinued.

What should I do when I go home?
-Please continue taking your medications as prescribed.
-You will follow up with your providers, as detailed below.
-If you notice worsening chest pain or shortness of breath, 
please return to the emergency department.

We wish you the best!

Your ___ treatment team
 
Followup Instructions:
___